US09303044B2
2-Amino-N-(5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)pyridin-3-yl)acetamide
To a solution of tert-butyl 4-(2-(5-(2-(tert-butoxycarbonylamino)acetamido)pyridin-3-yl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate (20 mg, 0.034 mmol) in DCM (2 ml) is added TFA (0.5 ml). The mixture is stirred for 2 h, concentrated in vacuo and the residue is directly purified by preparative HPLC to give the desired product 2-Amino-N-(5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)pyridin-3-yl)acetamide: 1H NMR (400 MHz, DMSO-d6) δ 11.11 (s, 1H), 9.10-8.90 (br.s., 2H), 8.94 (d, J=2.0 Hz, 1H), 8.83 (d, J=2.0 Hz, 1H), 8.67 (t, J=2.0 Hz, 1H), 8.35-8.15 (br.s., 3H), 5.62 (s, 1H), 3.89 (s, 2H), 3.85 (t, J=5.2 Hz, 4H), 3.20 (t, J=5.2 Hz, 4H); LC/MS: tR=1.908 min; HRMS: m/z (M+H+)=387.1344 (Calculated for C16H19N8O2S=387.1352).

reactant | tert-butyl 4-(2-(5-(2-(tert-butoxycarbonylamino)acetamido)pyridin-3-yl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate | 0.034 mmol, 20 mg | C(C)(C)(C)OC(=O)NCC(=O)NC=1C=C(C=NC1)C1=NN2C(=NC(=CC2=O)N2CCN(CC2)C(=O)OC(C)(C)C)S1 | C26H34N8O6S
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-N-(5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)pyridin-3-yl)acetamide | NCC(=O)NC=1C=NC=C(C1)C1=NN2C(=NC(=CC2=O)N2CCNCC2)S1 | C16H18N8O2S
